US08703761B2
B. {1-[4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}carbamic acid tert-butyl ester
To a solution of 2-tert-Butoxycarbonylamino-2-methyl-propionic acid (1.5 eq) and 4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylamine (1 eq)) in DMF (50 mL) were added HATU (1.5 eq) and TEA (2 eq). Reaction was stirred at 60 C over night. Aqueous work up followed by silica gel chromatography afforded the title compound. LCMS Method A Rt=1.51 (M+1=465.1, M−1=463.1). 1H NMR (400 MHz, DMSO-D6) 1.21 (s, 1H) 1.28-1.40 (m, 14H) 2.80-2.87 (m, 4H) 3.70-3.77 (m, 4H) 7.21-7.27 (m, 2H) 8.10-8.16 (m, 2H) 11.59 (s, 1H).

reactant | 2-tert-Butoxycarbonylamino-2-methyl-propionic acid | 1.5 eq | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | 4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylamine | 1 eq | FC1=CC=C(C=C1)C=1N=C(SC1N1CCOCC1)N | C13H14FN3OS
reactant | HATU | 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | {1-[4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C)C(NC=1SC(=C(N1)C1=CC=C(C=C1)F)N1CCOCC1)=O)=O | C22H29FN4O4S
